US07732446B1
[4-(3,4-Dihydro-1H-isoquinoline-2-carbonyl)-6,8-dimethoxy-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester
According to the procedure of Yamada et al. (Note 2), a solution of 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid (100 mg, 0.3 mmol) and 1,2,3,4-tetrahydro-isoquinoline (44 mg, 0.33 mmol) in 5 mL of THF was stirred at 0° C. under a nitrogen atmosphere. Diethyl cyanophosphonate (54 mg, 0.33 mmol) in 2 mL of THF was added followed by triethylamine (77 μL, 0.55 mmol). The reaction was stirred at 0° C. for 30 minutes and then at room temperature for 15 h. The reaction was diluted with EtOAc and then washed with water. The aqueous layer was extracted with EtOAc and the combined organic layers were washed with NH4OH (10% solution in H2O) and then with brine. The organic layer was then dried over magnesium sulfate, filtered and concentrated. The resulting residue was triturated with ether to give 87 mg (66%) of the desired product. H1-NMR (CDCl3): δ 8.30 (s, 1H), 7.27 (broad m, 4H), 6.75 (m, 1H), 6.58 (m, 2H), 5.09 (m, 2H), 4.41 (m, 2H), 3.98 (m, 2H), 3.83 (s, 2H), 3.50 (s, 3H), 3.09 and 2.77 (m, 1H each), 1.52 (s, 9H), [Note: broadening of peaks observed due to Boc group, rotamers also observed.] MS: APCI (M+H) calc'd for C27H31N3O5+H 478.6; found 478.0.

reactant | 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid | 0.3 mmol, 100 mg | C(C)(C)(C)OC(=O)NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(=O)O | C18H22N2O6
reactant | 1,2,3,4-tetrahydro-isoquinoline | 0.33 mmol, 44 mg | C1NCCC2=CC=CC=C12 | C9H11N
reactant | Diethyl cyanophosphonate | 0.33 mmol, 54 mg | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 0.55 mmol, 77 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [4-(3,4-Dihydro-1H-isoquinoline-2-carbonyl)-6,8-dimethoxy-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester | 87 mg, 66% | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(=O)N1CC2=CC=CC=C2CC1)=O | C27H31N3O5
